Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Major Surgical or Invasive Procedure:
T9 bone biopsy

attach
 
Pertinent Results:
NOTABLE LABS:
___ 07:14AM BLOOD WBC-6.6 RBC-4.57 Hgb-10.8* Hct-36.0 
MCV-79* MCH-23.6* MCHC-30.0* RDW-16.5* RDWSD-47.2* Plt ___
___ 04:20AM BLOOD Glucose-93 UreaN-10 Creat-0.8 Na-140 
K-4.1 Cl-104 HCO3-24 AnGap-12
___ 07:14AM BLOOD ALT-14 AST-18 AlkPhos-96 TotBili-0.4
___ 07:14AM BLOOD Albumin-3.3* Calcium-9.4 Phos-3.7 Mg-2.3

IMAGING:

MRI Mediastinum
IMPRESSION:  
1. A slightly heterogenous T2 hyperintense lesion in the
pre-vascular mediastinum corresponds to recent CT findings, and
shows no evidence of associated contrast enhancement. Findings
are suggestive of a benign etiology, likely related to a
congenital cyst rather than transformation. 
2. Nonocclusive filling defect in the left brachiocephalic vein
confluence is concerning for thrombus. 
3. Enhancing lesion in likely the T9 vertebral body correlates
with a rim sclerotic lesion on recent CT and is concerning for
metastatic disease. 
4. Partially visualized right breast tissue shows non
circumscribed cystic areas with associated ill-defined
enhancement. 
  
RECOMMENDATION(S): 1. CTV neck is recommended for further
evaluation of vascular findings. 
2. Clinical correlation and possible biopsy is suggested for
enhancing lesion in thoracic vertebral body. 
3. Breast followup as planned for further evaluation of right
breast findings. 

CTV Neck 
IMPRESSION: 
1. Thrombus within the left superior intercostal vein with
partial extension into the left brachiocephalic vein. 
2. Heterogeneous sclerosis of the C2 through C6 vertebrae, which
may represent metastatic disease. 
3. Periapical lucencies involving several right mandibular and
maxillary teeth, which is concerning for periodontal and
periapical infection. 

OTHER DATA:
Imaging at ___     

___ Chest: 
IMPRESSION:
1. No PE.
2. 3.5 cm near water density cystic mass in the left superior
mediastinum. Limited differential diagnosis includes patulous
pericardial recess, pericardial cyst and cystic neoplasm.
       
CT A/P: 
IMPRESSION: 
1. Slight fullness of the right pelvicalyceal system. No
obstructing stone or obvious lesion. Otherwise, no acute
intra-abdominal/pelvic pathology identified.
2. Uterine fibroid.

Right breast US
CONCLUSION: 4.5 x 4.1 x 1.7 cm thin-walled simple benign cyst.

 
Brief Hospital Course:
SUMMARY:
___ yo healthy, obese female who presented with R breast pain and 
R stabbing back pain, found to have a cystic breast mass, 
enhancing sclerotic lesions at C3-C6 and T9 vertebral bodiesm 
and a left superior intercostal vein thrombus with extension 
into the L brachiocephalic vein. Findings were overall 
concerning for underlying malignancy.  She underwent an ___ 
guided T9 spinal bone biopsy.

___ HOSPITAL COURSE:
# Breast mass 
# C3-C6, T9 sclerotic lesions
Findings are overall concerning malignancy.  She underwent ___ 
guided T9 biopsy on ___. Preliminary results show is pending at 
the time of discharge. The patient was advised to ___ at 
___ PCP ___ and ___ Surgery 
at ___.

# Left superior intercostal vein thrombosis with extension into
left brachiocephalic 
As above, suspected in the setting of malignancy.  She was 
initially started on a heparin drip. After biopsy, the patient 
was started on Apixiban. If she has malignancy, anticipate 
prolonged course of anticoagulation. 

# Mediastinal mass 
Per discussion with radiology appears benign, possible 
congenital cyst

# Right breast cellulitis
Improved on a 5d course of augmentin

# Periodontal disease
CTV neck showed periapical lucencies involving several right 
mandibular and maxillary teeth, which is concerning for 
periodontal and periapical infection.  Discussed with ___ and 
___ teams.  Given that patient is asymptomatic, recommend
outpatient dental ___.

TRANSITIONAL ISSUES:
[] Outpatient dental ___
[] ___ of pathology reports

> 30 minutes spent in discharge planning and counseling 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
Take 2tabs (10mg) for the next 8 doses followed by 1tab (5mg) 
twice daily 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Superior intercostal vein thrombus 
Periapical lucencies concern for periodontal disease 

 
Discharge Condition:
Discharge condition: stable
Mental status: ANOX3
Ambulatory 

 
Discharge Instructions:
Dear Ms. ___, 

You came to the hospital with right breast pain and back pain.  
You were found to have a cystic mass over the breast, abnormal 
lesions in the spinal column, and a blood clot in one of the 
veins in the chest.  You underwent a bone biopsy of the T9 
spinal bone. Testing was sent to determine if these findings 
were due to a cancer.  You were also started on a blood thinner 
for the blood clot.

___ with a primary care doctor within 7 days of discharge. 


It was a pleasure taking care of you at ___!  We wish you the 
best in your recovery.
-- Your ___ medical team 
 
Followup Instructions:
___